US07566789B2
14.3 500 mg of Raney nickel are added to a solution of 2.40 g (8.76 mmol) of methyl (3-amino-4-nitrobenzenesulfonyl)acetate in 50 ml of methanol, and the mixture is hydrogenated at room temperature and atmospheric pressure. The catalyst is filtered off, and the filtrate is evaporated, giving methyl (3,4-diaminobenzenesulfonyl)acetate as a yellow solid; ESI 245.

reactant | methyl (3-amino-4-nitrobenzenesulfonyl)acetate | 8.76 mmol, 2.40 g | NC=1C=C(C=CC1[N+](=O)[O-])S(=O)(=O)CC(=O)OC | C9H10N2O6S
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | 50 ml | CO | CH4O
product | methyl (3,4-diaminobenzenesulfonyl)acetate | NC=1C=C(C=CC1N)S(=O)(=O)CC(=O)OC | C9H12N2O4S
